US04123538
[2-(1-Adamantylamino)-2-oxoethoxy]acetic Acid
In a similar operation, a solution of 11.56g (0.100 mole) of diglycolic anhydride in 1 liter of dichloromethane was added with stirring to a solution of 15.11 grams (0.100 mole) of 1-adamantanamine in 700 milliliters of dichloromethane during about 24 minutes at about 15° to 25° C., whereupon a reaction took place with the formation of heterogeneous milky white mixture. The mixture was stirred for 3.67 hours at temperatures of about 23°-25° C. to complete the reaction with the formation of the desired product in the reaction mixture. The mixture was then concentrated on a rotary evaporator to recover 32.7 grams of a white solid which after recrystallization from 1:1 isopropanol-water mixture yielded the desired [2-(1-adamantylamino)-2-oxoethoxy]acetic acid as white plates, m.p. 181°-183° C.

reactant | diglycolic anhydride | 0.100 mole, 11.56g | C1(COCC(=O)O1)=O | C4H4O4
reactant | 1-adamantanamine | 0.100 mole, 15.11 grams | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | dichloromethane | 700 milliliters | ClCCl | CH2Cl2
product | [2-(1-Adamantylamino)-2-oxoethoxy]acetic Acid | C12(CC3CC(CC(C1)C3)C2)NC(COCC(=O)O)=O | C14H21NO4
